* Minimal reproduction of the LTE timestep-underflow bug fixed in 1.2.5.
*
* A capacitor whose voltage is pinned directly by a source slewing fast at t = 0. The
* operating point carries no reactive current by definition, so on the first step the
* source's branch current jumps from zero to C*dV/dt -- a step discontinuity in a row the
* step controller was judging with a formula that assumes smoothness. A discontinuity's
* divided difference does not shrink with h, so every step was rejected down to the floor:
*   Error: transient integration failed
*   Caused by: timestep underflow at t=0e0
*
* No Verilog-A: this is `va-abi`'s reference capacitor, resistor and waveform source, which
* is what makes it the right reproduction -- the bug was never about compact models, it only
* looked that way because a CMOS gate input is exactly this circuit.
*
* The threshold was quantitative and matched `lte_abstol` (1e-6 A) exactly: at this 6e9 V/s
* edge, C = 1e-16 passed and C = 2e-16 failed. 1.7 fF is an ordinary gate input.
*
*   cargo run -p va-cli -- sim circuits/benchmark/cap_fast_edge.net --tran
*
* Past the edge the circuit is a plain divider, so the answer is checkable by hand:
* V(in) = 1.2 V on the plateau and V(out) = 0.6 V.
V1 in  gnd PULSE(0 1.2 0p 200p 100p 1n 2n)
C1 in  gnd 1.7f
R1 in  out 10k
R2 out gnd 10k
.tran 10p 1n
.end
