* HICUM/L2 v3.0 output family -- one inner sweep of a nested `.dc`.
*
* The reference deck (ngspice + OSDI) asks for `dc VC 0 2 0.01 VB 0.65 0.9 0.05`. Nested
* `.dc` is unsupported here -- `DcSweep` names one source -- so the outer sweep is run as six
* decks like this one, with VB set to each of 0.65 … 0.90. Together they are the same 1206
* points, in six process launches instead of one.
*
*   cargo run -p va-cli -- sim circuits/benchmark/hicum_output_family.net \
*       --model external/code/hicum2/vacode/hicumL2V3p0p0.va --report VC
*
* Two further differences from the reference deck. There is no `model.l`, so these are the
* `.va` defaults and the currents are not the reference's. And `tnode` is terminated to
* ground: the original connects four nodes where the module declares five, and this project's
* `X` element requires every port. That termination costs nothing with the default card --
* `flsh=0`, `rth=0`, so nothing drives the thermal node and 1 mOhm to 10 Ohm give an
* identical answer -- but with `flsh=1` the resistor becomes a thermal resistance to ambient
* in parallel with the model's own `rth`. See `benchmark.md` § 5.
VB  b   gnd DC 0.9
VC  c   gnd DC 0
X1  c b gnd gnd tn hicumL2va
RT  tn  gnd 1e-3
.dc VC 0 2 0.01
.end
