* PSP103 CMOS inverter -- the OpenVAF benchmark deck, with its real model cards.
*
* `external/benchmarkExt/psp_inverter/psp_inverter.sp`, converted. The circuit is unchanged;
* what changed since `psp103_inverter_{vtc,tran}.net` is that the devices now carry the
* Modelcards/psp103_{nmos,pmos}.mod parameters instead of the `.va` file's defaults, so the
* numbers are finally the reference's numbers and the timing is finally a like-for-like
* comparison.
*
* Every card parameter is folded onto the `X` line because this netlist parser has no
* `.model` card and no `+` continuation. SPICE model cards are case-insensitive and Verilog-A
* parameters are not, so the keys were matched case-insensitively against the 880 PSP103VA
* declares; `level` is the simulator's dispatch rather than a parameter and is dropped.
* Geometry (`l`, `w`, `sa`, `sb`, `ab*`, `ls*`, `lg*`, `mult`) comes from the deck's own device
* lines. The `not1` subcircuit is flattened -- `.subckt` is unsupported -- and `.param Vcc` is
* substituted literally.
* (Since 1.11.0 the netlist parser reads `.subckt`, `.model` cards and `+` continuations, so
* the conversion described here is no longer forced; the deck is kept as converted.)
*
*   cargo run -p va-cli -- sim circuits/benchmark/psp103_inverter_card_tran.net \
*       --model external/code/psp103/vacode/psp103.va --tran --report in,out
Vdd   vdd gnd DC 1.2
Vmeas vss gnd DC 0
V1    in  gnd PULSE(0 1.2 0p 200p 100p 1n 2n)
XMP   out in  vdd vdd PSP103VA A1L=0 A1O=1.0 A1W=0 A2O=10.0 A3L=0 A3O=1.0 A3W=0 A4L=0 A4O=0 A4W=0 ABDRAIN=1.0e-12 ABSOURCE=1.0e-12 AGIDLDW=0 AGIDLW=50.0 ALP1L1=2.5E-2 ALP1L2=0.1 ALP1LEXP=0.4 ALP1W=8.5E-3 ALP2L1=0.5 ALP2L2=0.5 ALP2LEXP=0 ALP2W=-0.2 ALPL=7.0E-3 ALPLEXP=0.6 ALPW=5.0E-2 AXL=0.2 AXO=20 BETW1=5.0E-2 BETW2=-2.0E-2 BGIDLDO=41 BGIDLO=35.0 CBBTBOT=1.0E-12 CBBTBOTD=1.0E-12 CBBTGAT=1.0E-18 CBBTGATD=1.0E-18 CBBTSTI=1.0E-18 CBBTSTID=1.0E-18 CFBO=0.3 CFL=3.0E-4 CFLEXP=2.0 CFRDW=0 CFRW=5.0E-17 CFW=5.0E-3 CGBOVL=0 CGIDLDO=0 CGIDLO=0.15 CHIBO=3.1 CJORBOT=1.0E-3 CJORBOTD=1.0E-3 CJORGAT=0.5E-9 CJORGATD=1.0E-9 CJORSTI=1.0E-9 CJORSTID=1.0E-9 CSL=0 CSLEXP=1 CSLW=0 CSO=1.0E-2 CSRHBOT=5.0E2 CSRHBOTD=1.0E+2 CSRHGAT=1.0E3 CSRHGATD=1.0E-4 CSRHSTI=0 CSRHSTID=1.0E-4 CSW=0 CTATBOT=5.0E2 CTATBOTD=1.0E+2 CTATGAT=1.0E3 CTATGATD=1.0E-4 CTATSTI=0 CTATSTID=1.0E-4 CTL=4.0E-2 CTLEXP=0.6 CTLW=0 CTO=5.0E-15 CTW=0 DELVTACL=0 DELVTACLEXP=1 DELVTACLW=0 DELVTACO=0 DELVTACW=0 DLQ=0 DLSIL=0 DNSUBO=0 DPHIBL=0 DPHIBLEXP=1.0 DPHIBLW=0 DPHIBO=0 DPHIBW=0 DTA=0 DVSBNUDO=1 DWQ=0 EPSROXO=3.9 FACNEFFACL=0 FACNEFFACLW=0 FACNEFFACO=0.8 FACNEFFACW=0 FBBTRBOT=1.0E9 FBBTRBOTD=1.0E9 FBBTRGAT=1.0E9 FBBTRGATD=1.0E9 FBBTRSTI=1.0E9 FBBTRSTID=1.0E9 FBET1=-0.3 FBET1W=0.15 FBET2=50.0 FETAO=1 FJUNQ=0.03 FJUNQD=0.03 FNTO=1 FOL1=2.0E-2 FOL2=5.0E-6 GC2O=1.0 GC3O=-1.0 GCOO=5.0 GFACNUDL=0 GFACNUDLEXP=1 GFACNUDLW=0 GFACNUDO=0.1 GFACNUDW=0 IDSATRBOT=5.0E-9 IDSATRBOTD=1.0E-12 IDSATRGAT=1.0E-18 IDSATRGATD=1.0E-18 IDSATRSTI=1.0E-18 IDSATRSTID=1.0E-18 IGINVLW=50.0 IGOVDW=0 IGOVW=10.0 IMAX=1.0E3 L=0.1u LAP=10.0E-9 LGDRAIN=1.0e-06 LGSOURCE=1.0e-06 LOV=10.0E-9 LOVD=0 LP1=1.5E-7 LP1W=-2.5E-2 LP2=8.5E-10 LPCK=5.5E-8 LPCKW=0 LSDRAIN=1.0e-06 LSSOURCE=1.0e-06 LVARL=0 LVARO=-10.0E-9 LVARW=0 MEFFTATBOT=0.25 MEFFTATBOTD=0.25 MEFFTATGAT=0.25 MEFFTATGATD=0.25 MEFFTATSTI=0.25 MEFFTATSTID=0.25 MUEO=0.6 MUEW=-1.2E-2 MULT=1.0e+00 NFALW=8.0E+22 NFBLW=3.0E7 NFCLW=0 NOVDO=5.0e+25 NOVO=7.5E+25 NPCK=1.0E+24 NPCKW=0 NPL=10.0E-18 NPO=1.5E+26 NSLPO=0.05 NSUBO=3.0E+23 NSUBW=0 PBOT=0.35 PBOTD=0.5 PBRBOT=3 PBRBOTD=4 PBRGAT=3 PBRGATD=4 PBRSTI=4 PBRSTID=4 PGAT=0.6 PGATD=0.5 PHIGBOT=1.16 PHIGBOTD=1.16 PHIGGAT=1.16 PHIGGATD=1.16 PHIGSTI=1.16 PHIGSTID=1.16 PSTI=0.35 PSTID=0.5 QMC=1.0 RBULKO=0 RGO=0 RINT=0 RJUNDO=0 RJUNSO=0 RSBO=0 RSGO=0 RSHG=0 RSW1=50 RSW2=5.0E-2 RVPOLY=0 RWELLO=0 SA=0.0e+00 SB=0.0e+00 STA2O=-0.5 STBETL=-2.0E-2 STBETLW=-3.0E-3 STBETO=1.75 STBETW=-2.0E-3 STBGIDLDO=0 STBGIDLO=-5.0E-4 STCSO=-5.0 STFBBTBOT=-1.0E-3 STFBBTBOTD=-1.0E-3 STFBBTGAT=-1.0E-2 STFBBTGATD=-1.0E-3 STFBBTSTI=-1.0E-3 STFBBTSTID=-1.0E-3 STIGO=1.5 STMUEO=0.5 STRSO=-2.0 STTHEMUO=-0.1 STTHESATL=-2.5E-2 STTHESATLW=-5.0E-3 STTHESATO=1.5 STTHESATW=-2.0E-2 STVFBL=0 STVFBLW=0 STVFBO=5.0E-4 STVFBW=0 STXCORO=1.25 SWGEO=1 SWJUNEXP=0 THEMUO=2.75 THESATBO=0.15 THESATGO=0.75 THESATL=0.6 THESATLEXP=0.75 THESATLW=0 THESATO=1.0E-6 THESATW=-1.0E-2 TOXO=1.5E-9 TOXOVDO=2.0E-9 TOXOVO=1.5E-9 TR=27.0 TRJ=27.0 TYPE=-1 UO=3.5E-2 VBIRBOT=0.75 VBIRBOTD=1.0 VBIRGAT=0.75 VBIRGATD=1.0 VBIRSTI=1.0 VBIRSTID=1.0 VBRBOT=10.0 VBRBOTD=10.0 VBRGAT=10.0 VBRGATD=10.0 VBRSTI=10.0 VBRSTID=10.0 VFBL=0 VFBLW=0 VFBO=-1.1 VFBW=0 VJUNREF=2.5 VJUNREFD=2.5 VNSUBO=0 VPO=0.25 VSBNUDO=0 W=1u WBET=5.0E-10 WOT=0 WSEG=1.5E-10 WSEGP=0.9E-8 WVARL=0 WVARO=10.0E-9 WVARW=0 XCORL=2.0E-3 XCORLW=-3.5E-3 XCORO=0.15 XCORW=-3.0E-2 XJUNGAT=1.0E-9 XJUNGATD=1.0E-7 XJUNSTI=1.0E-8 XJUNSTID=1.0E-7
XMN   out in  vss vss PSP103VA A1L=0 A1O=1.0 A1W=0 A2O=10.0 A3L=0 A3O=1.0 A3W=0 A4L=0 A4O=0 A4W=0 ABDRAIN=1.0e-12 ABSOURCE=1.0e-12 AGIDLDW=0 AGIDLW=50.0 ALP1L1=2.5E-2 ALP1L2=0.1 ALP1LEXP=0.4 ALP1W=8.5E-3 ALP2L1=0.5 ALP2L2=0.5 ALP2LEXP=0 ALP2W=-0.2 ALPL=7.0E-3 ALPLEXP=0.6 ALPW=5.0E-2 AXL=0.2 AXO=20 BETW1=5.0E-2 BETW2=-2.0E-2 BGIDLDO=41 BGIDLO=35.0 CBBTBOT=1.0E-12 CBBTBOTD=1.0E-12 CBBTGAT=1.0E-18 CBBTGATD=1.0E-18 CBBTSTI=1.0E-18 CBBTSTID=1.0E-18 CFBO=0.3 CFL=3.0E-4 CFLEXP=2.0 CFRDW=0 CFRW=5.0E-17 CFW=5.0E-3 CGBOVL=0 CGIDLDO=0 CGIDLO=0.15 CHIBO=3.1 CJORBOT=1.0E-3 CJORBOTD=1.0E-3 CJORGAT=0.5E-9 CJORGATD=1.0E-9 CJORSTI=1.0E-9 CJORSTID=1.0E-9 CSL=0 CSLEXP=1 CSLW=0 CSO=1.0E-2 CSRHBOT=5.0E2 CSRHBOTD=1.0E+2 CSRHGAT=1.0E3 CSRHGATD=1.0E-4 CSRHSTI=0 CSRHSTID=1.0E-4 CSW=0 CTATBOT=5.0E2 CTATBOTD=1.0E+2 CTATGAT=1.0E3 CTATGATD=1.0E-4 CTATSTI=0 CTATSTID=1.0E-4 CTL=4.0E-2 CTLEXP=0.6 CTLW=0 CTO=5.0E-15 CTW=0 DELVTACL=0 DELVTACLEXP=1 DELVTACLW=0 DELVTACO=0 DELVTACW=0 DLQ=0 DLSIL=0 DNSUBO=0 DPHIBL=0 DPHIBLEXP=1.0 DPHIBLW=0 DPHIBO=0 DPHIBW=0 DTA=0 DVSBNUDO=1 DWQ=0 EPSROXO=3.9 FACNEFFACL=0 FACNEFFACLW=0 FACNEFFACO=0.8 FACNEFFACW=0 FBBTRBOT=1.0E9 FBBTRBOTD=1.0E9 FBBTRGAT=1.0E9 FBBTRGATD=1.0E9 FBBTRSTI=1.0E9 FBBTRSTID=1.0E9 FBET1=-0.3 FBET1W=0.15 FBET2=50.0 FETAO=1 FJUNQ=0.03 FJUNQD=0.03 FNTO=1 FOL1=2.0E-2 FOL2=5.0E-6 GC2O=1.0 GC3O=-1.0 GCOO=5.0 GFACNUDL=0 GFACNUDLEXP=1 GFACNUDLW=0 GFACNUDO=0.1 GFACNUDW=0 IDSATRBOT=5.0E-9 IDSATRBOTD=1.0E-12 IDSATRGAT=1.0E-18 IDSATRGATD=1.0E-18 IDSATRSTI=1.0E-18 IDSATRSTID=1.0E-18 IGINVLW=50.0 IGOVDW=0 IGOVW=10.0 IMAX=1.0E3 L=0.1u LAP=10.0E-9 LGDRAIN=1.0e-06 LGSOURCE=1.0e-06 LOV=10.0E-9 LOVD=0 LP1=1.5E-7 LP1W=-2.5E-2 LP2=8.5E-10 LPCK=5.5E-8 LPCKW=0 LSDRAIN=1.0e-06 LSSOURCE=1.0e-06 LVARL=0 LVARO=-10.0E-9 LVARW=0 MEFFTATBOT=0.25 MEFFTATBOTD=0.25 MEFFTATGAT=0.25 MEFFTATGATD=0.25 MEFFTATSTI=0.25 MEFFTATSTID=0.25 MUEO=0.6 MUEW=-1.2E-2 MULT=1.0e+00 NFALW=8.0E+22 NFBLW=3.0E7 NFCLW=0 NOVDO=5.0e+25 NOVO=7.5E+25 NPCK=1.0E+24 NPCKW=0 NPL=10.0E-18 NPO=1.5E+26 NSLPO=0.05 NSUBO=3.0E+23 NSUBW=0 PBOT=0.35 PBOTD=0.5 PBRBOT=3 PBRBOTD=4 PBRGAT=3 PBRGATD=4 PBRSTI=4 PBRSTID=4 PGAT=0.6 PGATD=0.5 PHIGBOT=1.16 PHIGBOTD=1.16 PHIGGAT=1.16 PHIGGATD=1.16 PHIGSTI=1.16 PHIGSTID=1.16 PSTI=0.35 PSTID=0.5 QMC=1.0 RBULKO=0 RGO=0 RINT=0 RJUNDO=0 RJUNSO=0 RSBO=0 RSGO=0 RSHG=0 RSW1=50 RSW2=5.0E-2 RVPOLY=0 RWELLO=0 SA=0.0e+00 SB=0.0e+00 STA2O=-0.5 STBETL=-2.0E-2 STBETLW=-3.0E-3 STBETO=1.75 STBETW=-2.0E-3 STBGIDLDO=0 STBGIDLO=-5.0E-4 STCSO=-5.0 STFBBTBOT=-1.0E-3 STFBBTBOTD=-1.0E-3 STFBBTGAT=-1.0E-2 STFBBTGATD=-1.0E-3 STFBBTSTI=-1.0E-3 STFBBTSTID=-1.0E-3 STIGO=1.5 STMUEO=0.5 STRSO=-2.0 STTHEMUO=-0.1 STTHESATL=-2.5E-2 STTHESATLW=-5.0E-3 STTHESATO=1.5 STTHESATW=-2.0E-2 STVFBL=0 STVFBLW=0 STVFBO=5.0E-4 STVFBW=0 STXCORO=1.25 SWGEO=1 SWJUNEXP=0 THEMUO=2.75 THESATBO=0.15 THESATGO=0.75 THESATL=0.6 THESATLEXP=0.75 THESATLW=0 THESATO=1.0E-6 THESATW=-1.0E-2 TOXO=1.5E-9 TOXOVDO=2.0E-9 TOXOVO=1.5E-9 TR=27.0 TRJ=27.0 TYPE=1 UO=3.5E-2 VBIRBOT=0.75 VBIRBOTD=1.0 VBIRGAT=0.75 VBIRGATD=1.0 VBIRSTI=1.0 VBIRSTID=1.0 VBRBOT=10.0 VBRBOTD=10.0 VBRGAT=10.0 VBRGATD=10.0 VBRSTI=10.0 VBRSTID=10.0 VFBL=0 VFBLW=0 VFBO=-1.1 VFBW=0 VJUNREF=2.5 VJUNREFD=2.5 VNSUBO=0 VPO=0.25 VSBNUDO=0 W=1u WBET=5.0E-10 WOT=0 WSEG=1.5E-10 WSEGP=0.9E-8 WVARL=0 WVARO=10.0E-9 WVARW=0 XCORL=2.0E-3 XCORLW=-3.5E-3 XCORO=0.15 XCORW=-3.0E-2 XJUNGAT=1.0E-9 XJUNGATD=1.0E-7 XJUNSTI=1.0E-8 XJUNSTID=1.0E-7
C3    in  vss 0.384f
C2    out vss 0.576f
.tran 10p 10n
.end
